US05719141
5(S)-Amino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide
Starting from 230 mg of 3-[N-tert-butoxycarbonyl-4(S)-(3-carboxy-2,2-dimethylpropyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide and 205 mg of 3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinoline, the title compound is obtained via (4O,5N-isopropylidene)-5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide (analogously to Example 1a); Rf (X)=0.08; Rf (V)=0.56; Rt (VI)=30.8 min) and 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide (Rf (P)=0.32; Rt (VI)=26.8 min; FAB-MS: (M+H)+ =603) in a manner analogous to Example 1) as a diastereomer mixture: Rf (V)=0.21; Rt (VI)=20.3 min; FAB-MS: (M+H)+ =503.

reactant | 3-[N-tert-butoxycarbonyl-4(S)-(3-carboxy-2,2-dimethylpropyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-methyl-propionic acid (N-butyl)amide | 230 mg | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC(CC(=O)O)(C)C)C)=O | C24H44N2O6
reactant | 3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinoline | 205 mg | C(N)(=O)CCC1CNC2=CC=CC=C2C1 | C12H16N2O
product | 5(S)-Amino-4(S)-hydroxy-2(R),7,7-trimethyl-8-[3(R,S)-(2-carbamoyl)ethyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonyl]-octanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC(CC(=O)N1CC(CC2=CC=CC=C12)CCC(N)=O)(C)C)N)O)C)=O | C28H46N4O4
